US04079141
By following the manipulative procedure outlined above in Example 12, a solution of 5.43 g of 1-(2-dimethylaminoethyl)-1-(4-methoxyphenyl)cyclopentane (the free base of Example 46) in chloroform is added to a stirred solution of 2.57 g of cyanogen bromide in chloroform to give an oil. The oil is dissolved in chlorofrom, subjected to column chromatography with a silica gel column and eluted with ether to produce an orange oil of 1-(N-cyano-N-methylaminoethyl)-1-(4-methoxyphenyl)cyclopentane.

reactant | 1-(2-dimethylaminoethyl)-1-(4-methoxyphenyl)cyclopentane | 5.43 g | CN(CCC1(CCCC1)C1=CC=C(C=C1)OC)C | C16H25NO
reactant | cyanogen bromide | 2.57 g | N#CBr | CBrN
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(N-cyano-N-methylaminoethyl)-1-(4-methoxyphenyl)cyclopentane | C(#N)N(C)CCC1(CCCC1)C1=CC=C(C=C1)OC | C16H22N2O
